US06162937
A 1000 mL flask was charged with 9-acetoxymethylfluorene (30.0 g, 126 mmol) and anhydrous petroleum ether (bp 35-60° C., 400 mL, Aldrich) and it was cooled to 5° C. Solid potassium tert-butoxide (16.0 g, 142 mmol, Aldrich) was added in one portion. After stirring for 6 hours, the mixture was poured into dilute HCl (200 mL, 0.1 N). Et2O was added (100 mL); the layers were separated and the product extracted into Et2O (2×100 mL). Combined organic portions were dried over anhydrous MgSO4 and the solvent was removed via rotary evaporation. The crude product dibenzofulvene was isolated as a yellow solid (21.3 g, 94% yield, >99% pure by GC). Further purification was accomplished by recrystallization from petroleum ether, to yield dibenzofulvene in the form of white needles (Tm 51.5-53° C.).

reactant | 9-acetoxymethylfluorene | 126 mmol, 30.0 g | C(C)(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C16H14O2
reactant | potassium tert-butoxide | 142 mmol, 16.0 g | CC(C)([O-])C.[K+]
reactant | HCl | 0.1 N, 200 mL | Cl | ClH
solvent | Et2O | CCOCC | C4H10O
product | dibenzofulvene | 94% yield | C=C1C2=CC=CC=C2C3=CC=CC=C13 | C14H10
